US08871792B2
(R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(3-methoxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic Acid
To a mixture of 3-methoxy-isoxazole-5-carboxylic acid (140 mg, 1.0 mmol) and HATU (373 mg, 1.0 mmol) in DMF (5.0 mL, 64 mmol) was added (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic acid ethyl ester (300.0 mg, 1.0 mmol) and DIPEA (0.3 mL, 1.6 mmol). The resulting mixture was stirred at room temperature overnight until the reaction was complete. The mixture was partitioned between EtOAc (10.0 mL) and water (3.0 mL). The organic layer was washed with water (2×3.0 mL), saturated aqueous NaCl (3.0 mL), dried over Na2SO4, filtered and concentrated to yield a yellowish oil. The oil was purified by flash chromatography (2×4 g stacker column, 0-100% EtOAc/hexanes). The desired fractions were combined and concentrated to yield a light yellowish oil. The oily residue was then treated with a mixture of MeOH (5.0 mL, 120 mmol) and water (1.0 mL, 56 mmol). LiOH monohydrate (68.6 mg, 1.6 mmol) was added. After stirring at room temperature for 30 minutes, the mixture was concentrated. The residue was treated with EtOAc (10.0 mL) and acidified with 1N HCl until pH˜3. The organic layer was washed with saturated aqueous NaCl (2×3.0 mL), dried over Na2SO4, filtered and concentrated to yield the title compound as a white foam (289.7 mg). MS m/z [M+H]+ calc'd for C21H19ClFN3O6, 464.09. found 464.0.

reactant | 3-methoxy-isoxazole-5-carboxylic acid | 1.0 mmol, 140 mg | COC1=NOC(=C1)C(=O)O | C5H5NO4
reactant | HATU | 1.0 mmol, 373 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMF | 64 mmol, 5.0 mL | CN(C)C=O | C3H7NO
reactant | (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic acid ethyl ester | 1.0 mmol, 300.0 mg | C(C)OC([C@@H](CN(N)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)O)=O | C18H20ClFN2O3
reactant | DIPEA | 1.6 mmol, 0.3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | MeOH | 120 mmol, 5.0 mL | CO | CH4O
reactant | water | 56 mmol, 1.0 mL | O | H2O
product | (R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(3-methoxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic Acid | 289.7 mg | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)CN(NC(=O)C1=CC(=NO1)OC)C[C@H](C(=O)O)O)F | C21H19ClFN3O6
